US05932601
In substantially the same manner as in Working Example 11, 4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]-3-methoxycinnamaldehyde was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]-3-methoxyphenyl]propyl]-2,4-oxazolidinedione. The product was recrystallized from chloroform-methanol-ether to give colorless prisms, m.p.173-174° C.

reactant | 4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]-3-methoxycinnamaldehyde | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=C(C=C(C=CC=O)C=C1)OC | C25H21NO4
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]-3-methoxyphenyl]propyl]-2,4-oxazolidinedione | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=C(C=C(C=C1)CCCC1C(NC(O1)=O)=O)OC | C28H26N2O6
